US06440995B1
4-Chloro-7-methoxy-2-(4-methoxy-phenyl)-quinoline
The title compound, m. p. 99-101° C., MS: m/e=299 (M+), was prepared from 4-chloro-7-methoxy-quinoline and 4-bromoanisole.

reactant | 4-chloro-7-methoxy-quinoline | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | 4-bromoanisole | BrC1=CC=C(C=C1)OC | C7H7BrO
product | 4-Chloro-7-methoxy-2-(4-methoxy-phenyl)-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC | C17H14ClNO2
